US09029395B2
A solution of methyl 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate (for a preparation see Intermediate 6) (580 mg, 1.273 mmol) in ethanol (10 mL) was treated with a aqueous lithium hydroxide solution (1N, 2.55 mL, 2.55 mmol) and the resulting mixture was stirred for 2 h. The bulk of ethanol was evaporated in vacuo and the residue was diluted with water (ca. 5 mL). The cloudy mixture was treated with acetic acid (0.146 mL, 2.55 mmol) and the precipitate formed was isolated by filtration, washed with Et2O and dried at 60° C. for 16 h to give 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinic acid (410 mg, 0.959 mmol, 75% yield) as a pale yellow solid which was used in the next step without further purification. LCMS (HpH, 2 min), Rt=0.63 min, MH+=428.

reactant | methyl 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)OC)C=C1)NC1=NC=C(C=C1)C#N)C | C25H23N5O3
reactant | lithium hydroxide | 2.55 mmol, 1N, 2.55 mL | [OH-].[Li+]
reactant | acetic acid | 2.55 mmol, 0.146 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)nicotinic acid | 0.959 mmol, 410 mg, 75% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=NC=C(C(=O)O)C=C1)NC1=NC=C(C=C1)C#N)C | C24H21N5O3
